US06310056B1
A solution of 292 mg of 4-nitro-benzyl (1R,3R,5R,6S)-6-[(1R)-1-(t-butyldimethyl-silyloxy)ethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 8 ml of dry acetonitrile was ice-cooled under the atmosphere of argon, and 0.267 ml of N,N-diisopropylethylamine was added dropwise, followed by 0.103 ml of anhydrous trifluoromethanesulfonic acid. After the reaction mixture was stirred at the same temperature for 30 minutes, it was diluted with ethyl acetate, a mixture of semi-saturated aqueous saline saturated aqueous sodium hydrogen carbonate (pH 8.9), and semi-saturated aqueous saline in this sequence. The organic layer was dried over anhydrous magnesium sulfate, filtered, mixed with 3 ml of N-methylpyrrolidinone, and the ethyl acetate was removed under reduced pressure. The residue was mixed with 17 mg of tris(dibenzylideneacetone)dipalladium (0), 17 mg of tri-2-furylphosphine, 376 mg of 2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole in 1 ml of dry N-methylpyrrolidinone, and 167 mg of zinc chloride, and the mixture was stirred under the atmosphere of argon at 50° C. for 4 hours. The reaction mixture was diluted with ethyl acetate, and washed with semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (ethyl acetate) and on Sephadex LH-20 (chloroform:methanol=1:1) in this sequence to give 111 mg of 4-nitrobenzyl (1S,5R,6S)-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-(imidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | 4-nitro-benzyl (1R,3R,5R,6S)-6-[(1R)-1-(t-butyldimethyl-silyloxy)ethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 292 mg | C(C)(C)(C)[Si](O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)(C)C | C23H32N2O7Si
reactant | N,N-diisopropylethylamine | 0.267 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic acid | 0.103 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium hydrogen carbonate | pH 8.9 | C(O)([O-])=O.[Na+]
reactant | acetonitrile | 8 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-nitrobenzyl (1S,5R,6S)-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-2-(imidazo[5,1-b]thiazol-2-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 111 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=CN=C3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C28H34N4O6SSi
